US06468487B1
Into a flask, 1 mmole of 1-carboxyadamantane, 0.1 mmole of N-hydroxyphthalimide and 6 ml of acetic acid were added to mix. The mixture was purged by nitrogen monoxide NO (about 1L) and oxygen O2 (about 1L), and then reacted for 20 hours at 110° C. with stirring. The reaction products were analyzed by gas chromatography, and, as a result, the conversion of 1-carboxyadamantane was 90%, and 1-carboxy-3-nitroadamantane (yield 80%) was formed.

reactant | 1-carboxyadamantane | 1 mmole | C(=O)(O)C12CC3CC(CC(C1)C3)C2 | C11H16O2
reactant | N-hydroxyphthalimide | 0.1 mmole | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 1-carboxy-3-nitroadamantane | yield 80% | C(=O)(O)C12CC3(CC(CC(C1)C3)C2)[N+](=O)[O-] | C11H15NO4
